US06307047B1
2-(2,2,2-Trifluoroethyl)-4,5-dichloro-3(2H)-pyridazinone
2,2,2-Trifluoroethylhydrazine (70% solution in water, 35.0 g, 0.307 mol) was treated with mucochloric acid (51.88 g, 0.307 mol) in ethanol (300 mL) and refluxed for 5 hours. The solvent was concentrated in vacuo. The crystals obtained were washed with water and air dried (yield: 50 g; 67.5%). 1H NMR (300 MHz, CDCl3) δ 4.8 (q, J=9 Hz, 2H), 7.85 (s, 1H). MS (DCl-NH3) m/z 264 (M+NH4)+.

reactant | 2,2,2-Trifluoroethylhydrazine | 0.307 mol, 35.0 g | FC(CNN)(F)F | C2H5F3N2
reactant | mucochloric acid | 0.307 mol, 51.88 g | C(/C(/Cl)=C(/Cl)\C=O)(=O)O | C4H2Cl2O3
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2-(2,2,2-Trifluoroethyl)-4,5-dichloro-3(2H)-pyridazinone | FC(CN1N=CC(=C(C1=O)Cl)Cl)(F)F | C6H3Cl2F3N2O
